US06350749B1
To a suspension of 60% sodium hydride (0.12 g, washed with hexane thrice) in dimethylformamide (10 ml) was added 3-methyl-6-(2-methylphenyl)-4,5,6,7-tetrahydroindol-4-one (0.60 g), and the mixture was stirred at room temperature for 30 minutes. To the mixture was added a solution of methanesulfonylchloride (0.43 g) in dimethylformamide (3 ml), and the mixture was stirred at the same temperature for 12 hours. To the mixture was added methanesulfonylchloride (0.74 g), and the mixture was stirred for 3 hours. To the mixture was added sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure, and the residue was purified with silica gel column chromatography (EtOAc/hexane) to give crystals, which were recrystallized from ethyl acetate-hexane to give colorless crystals of 1-methanesulfonyl-3-methyl-6-(2-methylphenyl)-4,5,6,7-tetrahydroindol-4-one (0.35 g).

reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | 3-methyl-6-(2-methylphenyl)-4,5,6,7-tetrahydroindol-4-one | 0.60 g | CC1=CNC=2CC(CC(C12)=O)C1=C(C=CC=C1)C | C16H17NO
reactant | methanesulfonylchloride | 0.43 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonylchloride | 0.74 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 1-methanesulfonyl-3-methyl-6-(2-methylphenyl)-4,5,6,7-tetrahydroindol-4-one | 0.35 g | CS(=O)(=O)N1C=C(C=2C(CC(CC12)C1=C(C=CC=C1)C)=O)C | C17H19NO3S
